US06492403B1
Methyl 4-(2-bromoacetyl)-5-methylthiothiophene-2-carboxylate (111 mg, 0.35 mmol) was allowed to react with 4-methylphenylmethylthiourea as described in Example 154, step (a) to give 125 mg (81% yield) of methyl 4-(2-{[(4-methylphenyl)methyl]amino}(1,3-thiazol-4-yl))-5-methylthiothiophene-2-carboxylate hydrobromide. Mass Spectrum (ESI) m/z calcd. for C18H18N2O2S2, 358.5 (M+H), found 359.1.

reactant | Methyl 4-(2-bromoacetyl)-5-methylthiothiophene-2-carboxylate | 0.35 mmol, 111 mg | BrCC(=O)C=1C=C(SC1C)C(=S)OC | C9H9BrO2S2
reactant | 4-methylphenylmethylthiourea | CC1=CC=C(C=C1)CNC(=S)N | C9H12N2S
product | methyl 4-(2-{[(4-methylphenyl)methyl]amino}(1,3-thiazol-4-yl))-5-methylthiothiophene-2-carboxylate hydrobromide | 125 mg, 81% yield | Br.CC1=CC=C(C=C1)CNC=1SC=C(N1)C=1C=C(SC1C)C(=S)OC | InChI=1S/C18H18N2OS3.BrH/c1-11-4-6-13(7-5-11)9-19-18-20-15(10-23-18)14-8-16(17(22)21-3)24-12(14)2;/h4-8,10H,9H2,1-3H3,(H,19,20);1H
